US07741360B2
(i) 4-Oxazol-5-yl-benzenethiol
To a solution of 4-oxazol-5-yl-benzenesulfonyl chloride (1 g) in THF (20 ml) was added triphenylphosphine (4.3 g). After stirring at RT for 10 minutes water (2 ml) was added and the reaction was stirred for a further 20 minutes. The reaction was evaporated under reduced pressure and the residue dissolved in EtOAc. The EtOAc solution was extracted with 1M NaOH (×3), the basic extractions were combined, the pH adjusted to 3 using 1M HCl and then re-extracted with EtOAc (×3). The EtOAc fractions were combined and washed with brine, dried (MgSO4) and evaporated under reduced pressure to give the subtitle compound as a green solid (0.65 g).

reactant | 4-oxazol-5-yl-benzenesulfonyl chloride | 1 g | O1C=NC=C1C1=CC=C(C=C1)S(=O)(=O)Cl | C9H6ClNO3S
reactant | triphenylphosphine | 4.3 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | water | 2 ml | O | H2O
solvent | THF | 20 ml | C1CCOC1 | C4H8O
product | 4-Oxazol-5-yl-benzenethiol | 0.65 g | O1C=NC=C1C1=CC=C(C=C1)S | C9H7NOS
